data/oMe_Silver.jsonl
{"reaction_id": "NR-001_1-C(F)(F)F_2-c1cccc2ccccc12","name": "Base-catalyzed Aldol addition","level": "easy","reactants_smiles": ["C(C(F)(F)F)(c1cccc2ccccc12)C=O","C(C(F)(F)F)(c1cccc2ccccc12)C=O"],"products_smiles": ["C(C(F)(F)F)(c1cccc2ccccc12)C(O)C(C(F)(F)F)(c1cccc2ccccc12)C=O"],"conditions": "Base","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C(F)(F)F)(c1cccc2ccccc12)=C[O-]","rationale": "The base abstracts the relatively acidic α-hydrogen due to resonance stabilization of the resulting enolate by the adjacent carbonyl group."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C(F)(F)F)(c1cccc2ccccc12)C([O-])C(C(F)(F)F)(c1cccc2ccccc12)C=O","rationale": "The nucleophilic enolate carbon attacks the electrophilic carbonyl carbon of another molecule, driven by the strong polarization of the C=O bond."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C(F)(F)F)(c1cccc2ccccc12)C(O)C(C(F)(F)F)(c1cccc2ccccc12)C=O","rationale": "The alkoxide intermediate is protonated by solvent or conjugate acid, yielding the stable β-hydroxy carbonyl product."}],"description": "Under basic conditions, an α-hydrogen is deprotonated to form an enolate, which then attacks the carbonyl carbon of another molecule, forming a β-hydroxy carbonyl compound. The base catalyzes both enolate formation and final protonation of the alkoxide intermediate."}
{"reaction_id": "NG-004_1-c1ccc(Cl)cc1","name": "Base-catalyzed Aldol condensation","level": "medium","reactants_smiles": ["C(Cc1ccc(Cl)cc1)C=O","C(Cc1ccc(Cl)cc1)C=O"],"products_smiles": ["C(Cc1ccc(Cl)cc1)C=C(C=O)c1ccc(Cl)cc1"],"conditions": "Base","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[C-](C=O)c1ccc(Cl)cc1","rationale": "The base abstracts the acidic alpha-proton due to resonance stabilization of the resulting enolate by the adjacent carbonyl group."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(Cc1ccc(Cl)cc1)C([O-])C(C=O)c1ccc(Cl)cc1","rationale": "The nucleophilic enolate carbon attacks the electrophilic carbonyl carbon of another molecule, favored by polarization of the C=O bond."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(Cc1ccc(Cl)cc1)C(O)C(C=O)c1ccc(Cl)cc1","rationale": "Protonation of the alkoxide intermediate occurs to form the more stable neutral beta-hydroxyketone under basic aqueous conditions."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(Cc1ccc(Cl)cc1)C(O)[C-](C=O)c1ccc(Cl)cc1","rationale": "The base deprotonates the alpha-position again, generating an enolate that is positioned for elimination."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(Cc1ccc(Cl)cc1)C=C(C=O)c1ccc(Cl)cc1","rationale": "Elimination of hydroxide occurs, forming a conjugated enone stabilized by extended pi-delocalization, making the step thermodynamically favorable."}],"description": "Under basic conditions, an alpha-proton is abstracted to form an enolate, which nucleophilically attacks another carbonyl, forming a beta-hydroxyketone. Subsequent deprotonation and elimination yield the conjugated enone via aldol condensation, driven by resonance stabilization of the product."}
